US07030267B2
To a solution of 1-cyano-2-isobutyl-cyclopropanecarboxylic acid ethyl ester (0.41 g, 2.10 mmol) in 45 mL EtOH was added triethylamine (5.0 mL) and Raney nickel (1.0 g). The mixture was hydrogenated in a Parr shaker at 48 psi for 18 hours, filtered, and concentrated. Flash chromatography of the residue (5→10% MeOH/CH2Cl2) provided 0.11 g (26%) of 1-aminomethyl-2-isobutyl-cyclopropanecarboxylic acid ethyl ester as a colorless oil. 1H NMR δ 4.10 (q, J=7.1 Hz, 2H), 2.90 (d, J=14.2 Hz, 1H), 2.76 (d, J=14.2 Hz, 1H), 1.63 (m, 1H), 1.52 (m, 2H), 1.34 (m, 1H), 1.22 (t, J=7.1 Hz, 3H), 1.04 (m, 1H), 0.90 (m, 6H), 0.49 (m, 1H). 13C NMR δ 175.51, 60.75, 42.42, 37.92, 30.61, 29.04, 26.46, 22.91, 22.63, 21.31, 14.49.

reactant | 1-cyano-2-isobutyl-cyclopropanecarboxylic acid ethyl ester | 2.10 mmol, 0.41 g | C(C)OC(=O)C1(C(C1)CC(C)C)C#N | C11H17NO2
reactant | triethylamine | 5.0 mL | C(C)N(CC)CC | C6H15N
solvent | EtOH | 45 mL | CCO | C2H6O
catalyst | Raney nickel | 1.0 g | [Ni] | Ni
product | 1-aminomethyl-2-isobutyl-cyclopropanecarboxylic acid ethyl ester | 0.11 g, 26% | C(C)OC(=O)C1(C(C1)CC(C)C)CN | C11H21NO2
